US07307092B2
(2R)-(4E)-5-(3-Pyridyl)-4-penten-2-ol
A mixture of 3-bromopyridine (9.17 g, 58.04 mmol), (2R)-4-penten-2-ol (6.00 g, 69.65 mmol), palladium(II) acetate (130 mg, 0.58 mmol), tri-o-tolylphosphine (710 mg, 2.32 mmol), triethylamine (34.7 mL, 249.5 mmol), and acetonitrile (35 mL) was heated in a sealed glass tube at 140° C. for 14 h. The reaction mixture was cooled to ambient temperature, diluted with water, and extracted with chloroform (3×200 mL). The combined chloroform extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation to give 6.17 g (65.2%) of a pale-yellow oil. (2R)-(4E)-5-(3-Pyridyl)-4-penten-2-ol p-Toluenesulfonate To a stirring solution of (2R)-(4E)-5-(3-pyridyl)-4-penten-2-ol (6.00 g, 36.81 mmol) in dry pyridine (30 mL) at 0° C. was added p-toluenesulfonyl chloride (21.05 g, 110.43 mmol). The reaction mixture was stirred for 24 h at ambient temperature. The pyridine was removed by rotary evaporation. Toluene (50 mL) was added to the residue and subsequently removed by rotary evaporation. The crude product was stirred with a saturated solution of sodium bicarbonate (100 mL) and extracted with chloroform (3×100 mL). The combined chloroform extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation to give 11.67 g (84.0%) of a dark-brown, viscous oil. (2S)-(4E)-N-Methyl-5-(3-pyridyl)-4-penten-2-amine A mixture of (2R)-(4E)-5-(3-pyridyl)-4-penten-2-ol p-toluenesulfonate (9.00 g, 28.35 mmol), methylamine (200 mL, 40% solution in water), and ethyl alcohol (10 mL) was stirred at ambient temperature for 18 h. The resulting solution was extracted with chloroform (3×100 mL). The combined chloroform extracts were dried over sodium sulfate, filtered, and concentrated by rotary evaporation. The crude product was purified by column chromatography over aluminum oxide, eluting with ethyl acetate-methanol (7:3, v/v). Selected fractions were combined and concentrated by rotary evaporation, producing an oil. Further purification by vacuum distillation furnished 1.20 g (24.0%) of a colorless oil, bp 90-100° C. at 0.5 mm Hg. (2S)-(4E)-N-Methyl-5-(3-pyridyl)-4-penten-2-amine Hemigalactarate (2S)-(4E)-N-Methyl-5-(3-pyridyl)-4-penten-2-amine (800 mg, 4.54 mmol) was dissolved in ethyl alcohol (20 mL), assisted by warming to 60° C. The warm solution was treated with galactaric acid (477 mg, 2.27 mmol) in one portion, followed by the dropwise addition of water (0.5 mL). The solution was filtered while hot to remove some insoluble material. The filtrate was allowed to cool to ambient temperature. The resulting crystals were filtered, washed with anhydrous diethyl ether, and dried under vacuum at 40° C. to yield 830 mg (65.4%) of an off-white, crystalline powder, mp 141-143° C.

reactant | (2S)-(4E)-N-Methyl-5-(3-pyridyl)-4-penten-2-amine Hemigalactarate (2S)-(4E)-N-Methyl-5-(3-pyridyl)-4-penten-2-amine | 4.54 mmol, 800 mg | CN[C@@H](C)C\C=C\C=1C=NC=CC1.O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O)O.CN[C@@H](C)C\C=C\C=1C=NC=CC1.CN[C@@H](C)C\C=C\C=1C=NC=CC1.CN[C@@H](C)C\C=C\C=1C=NC=CC1
reactant | galactaric acid | 2.27 mmol, 477 mg | O=C([C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O)O | C6H10O8
reactant | water | 0.5 mL | O | H2O
solvent | ethyl alcohol | 20 mL | C(C)O | C2H6O
product | (2R)-(4E)-5-(3-Pyridyl)-4-penten-2-ol | N1=CC(=CC=C1)/C=C/C[C@@H](C)O | C10H13NO
